* C:\Users\kenny\Documents\GitHub\SeniorDesign-Team9\Simulations\INA169 - LTSpice\Draft1.asc
XU1 N002 N004 N001 0 N003 INA139
RL N003 0 100k tol=1
RS N002 N004 0.3m
V1 N002 0 16.8V
V2 N001 0 5
I2 N004 0 PWL(0 0 1 1 2 2 3 3 4 4 5 5 6 6 7 7 8 8 9 9 10 10 11 20 12 30 13 40 14 50 15 60 16 70 17 80 18 90 19 100 20 110 21 120)
.tran 0 30 0
.lib C:\Users\kenny\Documents\GitHub\SeniorDesign-Team9\Simulations\INA169 - LTSpice\symbol\ina139.lib
.backanno
.end
