* C:\Users\kenny\Documents\GitHub\SeniorDesign-Team9\Simulations\INA169 - LTSpice\Draft1.asc
XU1 N002 N004 N002 0 N003 INA139
RL N003 0 100k tol=1
RS N002 N004 0.3m
V1 N002 0 16.8V
V2 N001 0 5
I2 N004 0 PWL(0 0 1 10 2 20 3 30 4 40 5 50 6 60 7 70 8 80 9 90 10 100 11 110 12 120 13 130 14 140 15 150 16 160 17 170 18 180 19 190 20 200)
.tran 0 30 0
.lib C:\Users\kenny\Documents\GitHub\SeniorDesign-Team9\Simulations\INA169 - LTSpice\symbol\ina139.lib
.backanno
.end
